US07875645B2
(E)-[1-(2-Ethyl-6-isobutyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine was prepared from (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine (Example 3 a) and isobutyl lithium in analogy to procedure Example 5 a): colourless liquid; NMR (CDCl3, ppm): 0.88 t, 18H (2×(CH3)2C), 1.20 t, 3H(CH3—CH2), 1.88 septett, 1H(CH(CH3)2), 2.08 m, 2H(NCH(CH(CH3)2)2), 2.48 t, 1H(NCH), 2.68 d, 2H (aryl -CH2CH), 2.88 q, 2H(CH3-CH2), 7.00 d, 1H and 7.08 d, 1H and 7.19 t, 1H (aryl-H), 8.49 1H (═CHN).

reactant | (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | C(C)C1=C(C(=CC=C1)OC)\C=N\C(C(C)C)C(C)C | C17H27NO
reactant | isobutyl lithium | C(C(C)C)[Li]
product | (E)-[1-(2-Ethyl-6-isobutyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | C(C)C1=C(C(=CC=C1)CC(C)C)\C=N\C(C(C)C)C(C)C | C20H33N
